US04183852
The 3β-(methoxyethoxymethoxy)-5-cholenic acid methyl ester was reduced with Vitride as described for the tetrahydropyranyl ether in Example 3. The resulting compound, the 3β-(methoxyethoxymethoxy)-24-hydroxy-5-cholene, was treated with tosyl chloride in pyridine and the 3β-(methoxyethoxymethoxy)-24-tosyloxy-5-cholene obtained. The tosyloxy compound was heated in dimethylformamide with potassium cyanide, and the tosyloxy group exchanged for the cyano group. 2.1 mmole of the 3β-(methoxyethoxymethoxy)-25-cyano-5-cholene was stirred with 2.36 g (10.5 mmole) of zinc bromide in 15 ml of methylene chloride. The insoluble material was removed by filtration, washed with ether, and the combined filtrates extracted with saturated aqueous solutions of sodium bicarbonate and sodium chloride. After drying, the solvents were evaporated, and the residue sponified with alkali. The 3β-hydroxy-5-homocholenic acid was obtained from the acidified saponification mixture.

reactant | 3β-(methoxyethoxymethoxy)-5-cholenic acid methyl ester | COC(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)OCOCCOC)=O | C29H48O5
reactant | Vitride | COCCO[AlH2-]OCCOC.[Na+]
reactant | tetrahydropyranyl ether | O1C(CCCC1)OC1OCCCC1 | C10H18O3
reactant | 3β-(methoxyethoxymethoxy)-24-hydroxy-5-cholene | COCCOCO[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCO)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C28H48O4
reactant | tosyl chloride | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3β-(methoxyethoxymethoxy)-24-tosyloxy-5-cholene | COCCOCO[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCOS(=O)(=O)C5=CC=C(C)C=C5)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C35H54O6S
